US07951838B2
Step 4: 3-(tert-Butyldimethylsilyloxy)cyclobutyl pivalate
To a stirred mixture of 3-hydroxycyclobutyl pivalate (16.60 g, 96.4 mmol) and diea (25.2 ml, 145 mmol) in DCM (100 ml) at 0° C. was added tert-butyldimethylsilyl triflate (31.0 ml, 135 mmol) dropwise. The reaction was stirred for 2 h, then quenched with H2O. The layers were separated, and the organic layer was washed with saturated NaHCO3, brine, dried over MgSO4 and concentrated to give the title compound as a light brown oil.

reactant | 3-hydroxycyclobutyl pivalate | 96.4 mmol, 16.60 g | C(C(C)(C)C)(=O)OC1CC(C1)O | C9H16O3
reactant | diea | 145 mmol, 25.2 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyldimethylsilyl triflate | 135 mmol, 31.0 ml | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C(C)(C)C | C7H15F3O3SSi
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-(tert-Butyldimethylsilyloxy)cyclobutyl pivalate | C(C(C)(C)C)(=O)OC1CC(C1)O[Si](C)(C)C(C)(C)C | C15H30O3Si
